US08604029B2
a) Preparation of 5-bromomethyl-2-chloro-pyridine
N-bromosuccinimide (6.1 g, 3.44 mmol) and benzoyl peroxide (218 mg, 0.09 mmol) were added successively to a solution of 2-chloro-5-methyl-pyridine (4.0 g, 3.13 mmol) in carbon tetrachloride (20 mL) and refluxed for 90 min. The reaction mixture was cooled to room temperature, water added and the organic layer separated. The organic layer was washed successively with water, brine, dried over anhydrous sodium sulfate and filtered. The resultant solution of 5-bromomethyl-2-chloro-pyridine was used as such for the next step.

reactant | N-bromosuccinimide | 3.44 mmol, 6.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.09 mmol, 218 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 2-chloro-5-methyl-pyridine | 3.13 mmol, 4.0 g | ClC1=NC=C(C=C1)C | C6H6ClN
reactant | water | O | H2O
solvent | carbon tetrachloride | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-bromomethyl-2-chloro-pyridine | BrCC=1C=CC(=NC1)Cl | C6H5BrClN
